*Alirýza Bilir
VI 1 0 DC 0	
VE 4 0 DC 3V

R1 1 2 20k
R2 2 0 40k	
R3 3 0 40k

D1 2 3 D1N4001
D2 2 4 D1N4001

.model D1N4001 D (IS=29.5E-9  RS=73.5E-3 N=1.96 CJO=34.6P VJ=0.627 M=0.461 BV=60 IBV=10U)
.DC VI -8 8 0.001
.probe
.END	