*deney 9

VCC 5 0 12V
Vs 1 0 sin(0 20mV 1kHz)

C1 2 1 1u
Cç 4 6 1u
RB2 2 0 10k
RB1 2 5 100k
RC 5 4 2.2k
RE 3 0 270
R5 6 0 1T

Q1 4 2 3 BC237

.MODEL BC237 NPN IS =1.8E-14 ISE=5.0E-14 NF =.9955 NE =1.46 BF =400 BR =35.5 IKF=.14 IKR=.03 ISC=1.72E-13 NC =1.27 NR =1.005 RB =.56 RE =.6 RC =.25 VAF=80 VAR=12.5 CJE=13E-12 TF =.64E-9 CJC=4E-12 TR =50.72E-9 VJC=.54 MJC=.33

.PROBE 
.TRAN 0ms 2ms 0.001ms
.END